2198-03-12 07:48:00 Physician Resident Progress Note
Chief Complaint: 87 y.o. female with dementia, DM2, chronic UTIs,
   recently [**Hospital1 678**] admission for UTI and PNA presenting with
   hematemesis.
   24 Hour Events:
 SPUTUM CULTURE - At [**2198-3-11**] 04:00 PM
 CALLED OUT
   - Was called out, but had probable aspiration event followed by
   increasing O2 requirement was kept in the ICU. (was on a 50% shovel
   mask to get humidified air, was able to be weaned down to 3 L).
   - Hct stable all day in the 29's to 30's, however her 11 pm Hct showed
   a drop to 25.6 (from 30).  No recent evidence of clinical bleeding,
   SBPs stable.  Tube feeds held.  A few hours later, am labs showed
   further decrease in her Hct to 23.8 so she is being transfused 1 unit
   of PRBC.
   Exam limited by dementia
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2198-3-11**] 11:30 AM
   Vancomycin - [**2198-3-11**] 01:00 PM
   Metronidazole - [**2198-3-12**] 04:05 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2198-3-12**] 06:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-12**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36
C (96.8
   HR: 82 (81 - 105) bpm
   BP: 115/45(60) {86/33(50) - 168/95(181)} mmHg
   RR: 25 (14 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  1,705 mL
                                                                    543 mL
   PO:
           TF:
                                                                    145 mL
                                                                     25 mL
   IVF:
                                                                  1,050 mL
                                                                    100 mL
   Blood products:
   188 mL
   Total out:
                                                                  1,275 mL
                                                                    405 mL
   Urine:
                                                                  1,275 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    430 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   FiO2: 40
   SpO2: 95
   ABG: ///25/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: edentulous, small blood on lips
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Few coarse
   rhonchi bilaterally )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No lower extremity edema appreciated
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): *1, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   450 K/uL
   8.2 g/dL
   82 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   21 mg/dL
   103 mEq/L
   137 mEq/L
   23.8 %
   24.3 K/uL
        [image002.jpg]
                             [**2198-3-11**]  09:16 AM
                             [**2198-3-11**]  02:53 PM
                             [**2198-3-11**]  10:38 PM
                             [**2198-3-12**]  02:40 AM
   WBC
   24.9
   24.3
   Hct
   29.4
   30.3
   25.6
   23.8
   Plt
   489
   450
   Cr
   0.7
   0.9
   Glucose
   277
   82
   Other labs: PT / PTT / INR:12.9/31.0/1.1, Differential-Neuts:94.3 %,
   Lymph:3.4 %, Mono:1.9 %, Eos:0.3 %, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   This is a 87 year-old female with a history of dementia, CVA, DM2, CHF,
   chronic UTIs who presents with hematemesis and likely aspiration PNA
   # Hematemesis: In ED Peg lavage with coffee ground; cleared after 500
   cc.  Was guiac positive in ED but guiac negative in one stool yesterday
   and no stools today.  No hematemesis in unit.  Presumed UGIB
   considering ce gastritis vs duodenol vs gastric ulcer vs esophageal
   pathology([**Doctor First Name **] [**Doctor Last Name **], varices).   GI evaluated and reluctant to
   scope given general morbidity and severe dementia.
   - PPI IV BID
   - 2 large bore PIVs
   - transfuse to keep HCT >25
   -Recheck PM Hct
   # PNA- Patient with worsened CXR on [**2198-3-12**] with new and worsened
   consolidations on left and worsened consolidation on right.  Most
   likely due to repeat aspiration event yesterday.  O2  sats are stable
   and no other signs of distress.
   - vancomycin, cefepime, metronidazole (anticipate 10 day course for
   HAP/aspiration)
   - sputum cx pending
   - blood cx pending
   # Chronic UTIs: Had recent UTI at [**Hospital1 678**] per report but UA here with
   pyuria but now LE.  Any infection should be covered by HAP regimen.
   - f/u final urine culture
   - abx as above
   - remove foley
   # DM: Patient NPO, continue half dose of lantus and RISS
    # Dementia: MS [**First Name (Titles) **] [**Last Name (Titles) 1123**] per daughter, no acute management
   #. chronic heart failure: unclear if systolic or diastolic; no ECHO
   here; will need to get OSH reports
   - cont home meds of isosorbide, captopril, and metoprolol once HCT
   stable x 3
   - does not tolerate ASA (allergy)
   -Given increased interstitial markings and possible contribution of
   pulmonary edema to respiratory status  will given 20 mg furosemide IV
   *1
   # FEN: NPO for now
   -          nutrition consult for TF recs once ruled out acute bleeding
   -          Speech and swallow once stable
   # Access: 2 PIVs
   # PPx:  ppi; pneumoboots
   # Code: FULL CODE
   # Dispo: ICU unti HCT stable
   # Comm: with patient; daughter [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 5462**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2198-3-11**] 08:45 AM
   20 Gauge - [**2198-3-12**] 06:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-03-12 12:22:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient wtih mild decrease in HCT in the setting of OB neg stool
   24 Hour Events:
 SPUTUM CULTURE - At [**2198-3-11**] 04:00 PM
 CALLED OUT
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2198-3-11**] 11:30 AM
   Metronidazole - [**2198-3-12**] 04:05 AM
   Vancomycin - [**2198-3-12**] 09:17 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2198-3-12**] 06:40 AM
   Pantoprazole (Protonix) - [**2198-3-12**] 09:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2198-3-12**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 82 (80 - 105) bpm
   BP: 139/55(75) {86/33(50) - 178/95(105)} mmHg
   RR: 26 (14 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                  1,705 mL
                                                                    840 mL
   PO:
           TF:
                                                                    145 mL
                                                                     25 mL
   IVF:
                                                                  1,050 mL
                                                                    310 mL
   Blood products:
   275 mL
   Total out:
                                                                  1,275 mL
                                                                    855 mL
   Urine:
                                                                  1,275 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    430 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   450 K/uL
   82 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   21 mg/dL
   103 mEq/L
   137 mEq/L
   26.7 %
   24.3 K/uL
        [image002.jpg]
                             [**2198-3-11**]  09:16 AM
                             [**2198-3-11**]  02:53 PM
                             [**2198-3-11**]  10:38 PM
                             [**2198-3-12**]  02:40 AM
                             [**2198-3-12**]  11:14 AM
   WBC
   24.9
   24.3
   Hct
   29.4
   30.3
   25.6
   23.8
   26.7
   Plt
   489
   450
   Cr
   0.7
   0.9
   Glucose
   277
   82
   Other labs: PT / PTT / INR:12.9/31.0/1.1, Differential-Neuts:94.3 %,
   Lymph:3.4 %, Mono:1.9 %, Eos:0.3 %, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   87 yo female with h/o dementia, UTI and now admit with GIB and
   overnight event c/b hypoxemia and increasing dyspnea with evolution of
   FIO2 requirement to 0.4.  This increase in O2 requirement is less
   likely related to volume overload and quite likely more related to
   continued events of aspiraiton.
   1)
 PNEUMONIA, OTHER-Seen with patchy middle lobe infiltrate
   -Vanco/Cefepime x 7 days
   2)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   --PPI IV BID
   --HCT q 6 hours
   3)Hypoxemia-
   -Modest increase in O2 requirement
   -Will look to control aspiration risk and events as tightly as
   possible.
   ICU Care
   Nutrition: Will need speech and swallow to continue to consider safe
   feeds
will continue TF
s for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2198-3-11**] 08:45 AM
   20 Gauge - [**2198-3-12**] 06:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2198-03-13 07:31:00 Physician Resident Progress Note
Chief Complaint: Hematemesis
   24 Hour Events:
 PICC LINE - START [**2198-3-12**] 02:36 PM
   -Chest radiograph showed worsening of right middle lobe and left
   airspace disease, mild pulmonary edema.
   -Post transfusion Hct bumped appropriately (23.8-26.7) but then back to
   23.6 six hours later.  Ordered for another unit along with 20 mg IV
   furosemide given concern for volume overload.  Next Hct 28 and f/u 29.
   -Got PICC for antibiotics
   Patient unable to provide history: Severe dementia
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2198-3-12**] 01:12 PM
   Vancomycin - [**2198-3-12**] 08:42 PM
   Metronidazole - [**2198-3-13**] 04:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-3-12**] 09:12 AM
   Furosemide (Lasix) - [**2198-3-12**] 05:45 PM
   Dextrose 50% - [**2198-3-13**] 06:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-3-13**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 65 (65 - 93) bpm
   BP: 141/71(88) {101/52(63) - 178/90(107)} mmHg
   RR: 23 (15 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,540 mL
                                                                    270 mL
   PO:
             TF:
                                                                     25 mL
   IVF:
                                                                    760 mL
                                                                    100 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  2,670 mL
                                                                    430 mL
   Urine:
                                                                  2,670 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,130 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Face tent
   FiO2: 40%
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin, Frail
   Eyes / Conjunctiva: Refused to open
   Head, Ears, Nose, Throat: Normocephalic, edentulous
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : occasional)
   Abdominal: Soft, Bowel sounds present, Tender: around PEG site, PEG
   tube in place
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   433 K/uL
   10.8 g/dL
   82 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   17 mg/dL
   103 mEq/L
   141 mEq/L
   29.4 %
   16.4 K/uL
        [image002.jpg]
                             [**2198-3-11**]  09:16 AM
                             [**2198-3-11**]  02:53 PM
                             [**2198-3-11**]  10:38 PM
                             [**2198-3-12**]  02:40 AM
                             [**2198-3-12**]  11:14 AM
                             [**2198-3-12**]  04:13 PM
                             [**2198-3-13**]  12:54 AM
                             [**2198-3-13**]  04:00 AM
   WBC
   24.9
   24.3
   16.4
   Hct
   29.4
   30.3
   25.6
   23.8
   26.7
   23.6
   28.3
   29.4
   Plt
   489
   450
   433
   Cr
   0.7
   0.9
   0.8
   Glucose
   277
   82
   Other labs: PT / PTT / INR:13.7/31.0/1.2, Differential-Neuts:94.3 %,
   Lymph:3.4 %, Mono:1.9 %, Eos:0.3 %, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   This is a 87 year-old female with a history of dementia, CVA, DM2, CHF,
   chronic UTIs who presents with hematemesis and likely aspiration PNA
    # Hematemesis: Initial hematemesis/hematochezia presumed due to
   gastritis/duodenitis with UGIB presentation.  Continues to have no
   signs of continued bleeding and now Hct stable.  GI evaluated and
   decided not to scope given general morbidity of patient with severe
   dementia and overall stability.
   - PPI IV BID
   - 2 large bore PIVs
   - transfuse to keep HCT >25
   -[**Hospital1 7**] Hematocrit checks.
   # PNA- Patient with worsened CXR on [**2198-3-12**] with new and worsened
   consolidations on left and worsened consolidation on right.  Most
   likely due to repeat aspiration event yesterday.  O2  sats are stable
   and no other signs of distress.
   - vancomycin, cefepime, metronidazole (anticipate 10 day course for
   HAP/aspiration)
   - sputum cx pending
   - blood cx pending
   # Chronic UTIs: Had recent UTI at [**Hospital1 678**] per report but UA here with
   pyuria but no LE.  Culture ultimately negative thus do not believe that
   a UTI contributed to this presentation.
   # DM: Patient with some hypoglycemia requiring dextrose *2.  Most
   likely this is because even half dose of glargine is too much while
   NPO.
   -Restart tube feeds as Hct stable
   -Establish on half dose of glargine
    # Dementia: MS [**First Name (Titles) **] [**Last Name (Titles) 1123**] per daughter, no acute management
   #. chronic heart failure: Unclear if this is systolic or diastolic
   failure as no echocardiograms here.  Appearance of CXR mildly improved
   with diuresis yesterday (less hilar fullness).   Will continue to
   diurese given stable Cr and continued appearance of some pulmonary
   edema.
   - convert isosorbide and ACEi to daily preparations, continue
   metoprolol
   -Furosemide 20 mg IV *1
   - does not tolerate ASA (allergy)
   # FEN: NPO for now
   - Restart tube feeds per previous nutrition reccs
   -Speech and swallow once stable
   # Access: 2 PIVs
   # PPx:  ppi; pneumoboots
   # Code: FULL CODE
   # Dispo: Call out to floor today
    # Comm: with patient; daughter [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 5462**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2198-3-12**] 02:36 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer: on PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-03-13 09:39:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2198-3-12**] 02:36 PM
   2 units PRBC over past 24 hours
   Mild pulmonary edema and Lasix given with good response
   PICC placed
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   Unknown;
   Metformin
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2198-3-12**] 01:12 PM
   Metronidazole - [**2198-3-13**] 04:22 AM
   Vancomycin - [**2198-3-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2198-3-12**] 05:45 PM
   Dextrose 50% - [**2198-3-13**] 06:29 AM
   Pantoprazole (Protonix) - [**2198-3-13**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2198-3-13**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.6
   HR: 71 (65 - 93) bpm
   BP: 164/82(102) {101/52(63) - 178/104(122)} mmHg
   RR: 23 (15 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  1,540 mL
                                                                    570 mL
   PO:
             TF:
                                                                     25 mL
   IVF:
                                                                    760 mL
                                                                    310 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                  2,670 mL
                                                                    540 mL
   Urine:
                                                                  2,670 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,130 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : rare)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   433 K/uL
   32 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   17 mg/dL
   103 mEq/L
   141 mEq/L
   29.4 %
   16.4 K/uL
        [image002.jpg]
                             [**2198-3-11**]  09:16 AM
                             [**2198-3-11**]  02:53 PM
                             [**2198-3-11**]  10:38 PM
                             [**2198-3-12**]  02:40 AM
                             [**2198-3-12**]  11:14 AM
                             [**2198-3-12**]  04:13 PM
                             [**2198-3-13**]  12:54 AM
                             [**2198-3-13**]  04:00 AM
   WBC
   24.9
   24.3
   16.4
   Hct
   29.4
   30.3
   25.6
   23.8
   26.7
   23.6
   28.3
   29.4
   Plt
   489
   450
   433
   Cr
   0.7
   0.9
   0.8
   Glucose
   277
   82
   32
   Other labs: PT / PTT / INR:13.7/31.0/1.2, Differential-Neuts:94.3 %,
   Lymph:3.4 %, Mono:1.9 %, Eos:0.3 %, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   87 yo female admitted with GIB and now showing reasonable stability of
   HCT in the setting of transfusion.  Yesterday was complicated by mild
   volume overload with was responsive to lasix given as IV dosing.  No
   further evidence of hematemsis.
 PNEUMONIA, OTHER
   Vanco/Flagyl/Cefepime x10d for aspiration penumonia
   -Clinical evidence of pneumonia is largely based upon residual
   infiltrates following diuresis and improvement in respiratory status
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   -PPI
   -[**Hospital1 7**] HCT
   -Goal HCT >25 with stability
   ICU Care
   Nutrition: Supervised feeds at this time
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2198-3-12**] 02:36 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes